US07163936B2
To a solution of tert-butyl(3S)-3-amino-4-(methoxymethoxy)butanoate (9.7 g, 44 mmol) and diisopropylethylamine (11.5 ml, 66 mmol) in methanol (300 ml) was dropped at room temperature methyl bromoacetate (6.2 ml, 66 mmol). The solution was stirred for 1 hour at 60° C. Additional methyl bromoacetate (2.1 ml, 22 mmol) and diisopropylethylamine (3.8 ml, 22 mmol) were added thereto and the mixture was stirred for 1 hour, cooled to room temperature and the solvent was removed. The residue was dissolved in chloroform (100 ml) and thereto were dropped at 0° C. allyl chloroformate (94 ml, 88 mmol) and then diisopropylethylamine (15.5 ml, 88 mmol). The mixture was stirred at the same temperature for 1 hour and at room temperature for 13 hours. To the reaction mixture was added water under cooling in an ice bath and the mixture was extracted three times with chloroform. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over magnesium sulfate. The residue was purified with silica gel (230 g) chromatography (hexane/ethyl acetate=2/1→1/1) to give tert-butyl (3S)-3-[[(allyloxy)carbonyl](2-methoxy-2-oxoethyl)amino]-4-(methoxymethoxy)butanoate (11.7 g, 71%).

reactant | tert-butyl(3S)-3-amino-4-(methoxymethoxy)butanoate | 44 mmol, 9.7 g | N[C@@H](CC(=O)OC(C)(C)C)COCOC | C10H21NO4
reactant | diisopropylethylamine | 66 mmol, 11.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl bromoacetate | 66 mmol, 6.2 ml | BrCC(=O)OC | C3H5BrO2
reactant | methyl bromoacetate | 22 mmol, 2.1 ml | BrCC(=O)OC | C3H5BrO2
reactant | diisopropylethylamine | 22 mmol, 3.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | allyl chloroformate | 88 mmol, 94 ml | ClC(=O)OCC=C | C4H5ClO2
reactant | diisopropylethylamine | 88 mmol, 15.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 300 ml | CO | CH4O
solvent | water | O | H2O
product | tert-butyl (3S)-3-[[(allyloxy)carbonyl](2-methoxy-2-oxoethyl)amino]-4-(methoxymethoxy)butanoate | 11.7 g, 71% | C(C=C)OC(=O)N([C@@H](CC(=O)OC(C)(C)C)COCOC)CC(=O)OC | C17H29NO8
